US09403805B2
To a solution of (2S,4S)-4-[(1-hydroxy-naphthalene-2-carbonyl)-amino]-2-oxazol-2-yl-pyrrolidine-1-carboxylic acid benzyl ester (30 mg, 0.06 mmol) in methanol (2 mL) was added 20% Pd(OH)2 (20 mg) and the mixture was stirred at room temp. for 16 h. with a balloon containing H2 gas. The reaction mixture was then filtered and concentrated under reduced pressure to give 1-hydroxy-naphthalene-2-carboxylic acid ((3S,5S)-5-oxazol-2-yl-pyrrolidin-3-yl)-amide (15 mg) as a light brown liquid. MS calcd. for C18H18N3O3[(M+H)+] 324, obsd. 324.

reactant | (2S,4S)-4-[(1-hydroxy-naphthalene-2-carbonyl)-amino]-2-oxazol-2-yl-pyrrolidine-1-carboxylic acid benzyl ester | 0.06 mmol, 30 mg | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@@H](C1)NC(=O)C1=C(C2=CC=CC=C2C=C1)O)C=1OC=CN1 | C26H23N3O5
solvent | methanol | 2 mL | CO | CH4O
catalyst | Pd(OH)2 | 20 mg | [OH-].[OH-].[Pd+2]
product | 1-hydroxy-naphthalene-2-carboxylic acid ((3S,5S)-5-oxazol-2-yl-pyrrolidin-3-yl)-amide | 15 mg | O1C(=NC=C1)[C@@H]1C[C@@H](CN1)NC(=O)C1=C(C2=CC=CC=C2C=C1)O | C18H17N3O3
